# Qucs

.Def:singleOPV _net4 _net0 _net9 _net3 _net7
MOSFET:T3 _net0 _net1 _net2 _net3 Type="nfet" Vt0="1.0 V" Kp="2e-5" Gamma="0.0" Phi="0.6 V" Lambda="0.0" Rd="0.0 Ohm" Rs="0.0 Ohm" Rg="0.0 Ohm" Is="1e-14 A" N="1.0" W="120 um" L="0.8 um" Ld="0.0" Tox="0.1 um" Cgso="0.0" Cgdo="0.0" Cgbo="0.0" Cbd="0.0 F" Cbs="0.0 F" Pb="0.8 V" Mj="0.5" Fc="0.5" Cjsw="0.0" Mjsw="0.33" Tt="0.0 ps" Nsub="0.0" Nss="0.0" Tpg="1" Uo="600.0" Rsh="0.0" Nrd="1" Nrs="1" Cj="0.0" Js="0.0" Ad="0.0" As="0.0" Pd="0.0 m" Ps="0.0 m" Kf="0.0" Af="1.0" Ffe="1.0" Temp="26.85" Tnom="26.85"
MOSFET:T4 _net4 _net5 _net2 _net3 Type="nfet" Vt0="1.0 V" Kp="2e-5" Gamma="0.0" Phi="0.6 V" Lambda="0.0" Rd="0.0 Ohm" Rs="0.0 Ohm" Rg="0.0 Ohm" Is="1e-14 A" N="1.0" W="120 um" L="0.8 um" Ld="0.0" Tox="0.1 um" Cgso="0.0" Cgdo="0.0" Cgbo="0.0" Cbd="0.0 F" Cbs="0.0 F" Pb="0.8 V" Mj="0.5" Fc="0.5" Cjsw="0.0" Mjsw="0.33" Tt="0.0 ps" Nsub="0.0" Nss="0.0" Tpg="1" Uo="600.0" Rsh="0.0" Nrd="1" Nrs="1" Cj="0.0" Js="0.0" Ad="0.0" As="0.0" Pd="0.0 m" Ps="0.0 m" Kf="0.0" Af="1.0" Ffe="1.0" Temp="26.85" Tnom="26.85"
MOSFET:T6 _net6 _net6 _net3 _net3 Type="nfet" Vt0="1.0 V" Kp="2e-5" Gamma="0.0" Phi="0.6 V" Lambda="0.0" Rd="0.0 Ohm" Rs="0.0 Ohm" Rg="0.0 Ohm" Is="1e-14 A" N="1.0" W="15 um" L="5 um" Ld="0.0" Tox="0.1 um" Cgso="0.0" Cgdo="0.0" Cgbo="0.0" Cbd="0.0 F" Cbs="0.0 F" Pb="0.8 V" Mj="0.5" Fc="0.5" Cjsw="0.0" Mjsw="0.33" Tt="0.0 ps" Nsub="0.0" Nss="0.0" Tpg="1" Uo="600.0" Rsh="0.0" Nrd="1" Nrs="1" Cj="0.0" Js="0.0" Ad="0.0" As="0.0" Pd="0.0 m" Ps="0.0 m" Kf="0.0" Af="1.0" Ffe="1.0" Temp="26.85" Tnom="26.85"
MOSFET:T5 _net6 _net2 _net3 _net3 Type="nfet" Vt0="1.0 V" Kp="2e-5" Gamma="0.0" Phi="0.6 V" Lambda="0.0" Rd="0.0 Ohm" Rs="0.0 Ohm" Rg="0.0 Ohm" Is="1e-14 A" N="1.0" W="15 um" L="5 um" Ld="0.0" Tox="0.1 um" Cgso="0.0" Cgdo="0.0" Cgbo="0.0" Cbd="0.0 F" Cbs="0.0 F" Pb="0.8 V" Mj="0.5" Fc="0.5" Cjsw="0.0" Mjsw="0.33" Tt="0.0 ps" Nsub="0.0" Nss="0.0" Tpg="1" Uo="600.0" Rsh="0.0" Nrd="1" Nrs="1" Cj="0.0" Js="0.0" Ad="0.0" As="0.0" Pd="0.0 m" Ps="0.0 m" Kf="0.0" Af="1.0" Ffe="1.0" Temp="26.85" Tnom="26.85"
MOSFET:T8 _net6 _net7 _net3 _net3 Type="nfet" Vt0="1.0 V" Kp="2e-5" Gamma="0.0" Phi="0.6 V" Lambda="0.0" Rd="0.0 Ohm" Rs="0.0 Ohm" Rg="0.0 Ohm" Is="1e-14 A" N="1.0" W="60 um" L="5 um" Ld="0.0" Tox="0.1 um" Cgso="0.0" Cgdo="0.0" Cgbo="0.0" Cbd="0.0 F" Cbs="0.0 F" Pb="0.8 V" Mj="0.5" Fc="0.5" Cjsw="0.0" Mjsw="0.33" Tt="0.0 ps" Nsub="0.0" Nss="0.0" Tpg="1" Uo="600.0" Rsh="0.0" Nrd="1" Nrs="1" Cj="0.0" Js="0.0" Ad="0.0" As="0.0" Pd="0.0 m" Ps="0.0 m" Kf="0.0" Af="1.0" Ffe="1.0" Temp="26.85" Tnom="26.85"
R:R1 _net1 _net8 R="4k" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
C:C1 _net8 _net7 C="4p" V=""
MOSFET:T1 _net5 _net5 _net9 _net9 Type="pfet" Vt0="-1.0 V" Kp="2e-5" Gamma="0.0" Phi="0.6 V" Lambda="0.0" Rd="0.0 Ohm" Rs="0.0 Ohm" Rg="0.0 Ohm" Is="1e-14 A" N="1.0" W="200 um" L="5 um" Ld="0.0" Tox="0.1 um" Cgso="0.0" Cgdo="0.0" Cgbo="0.0" Cbd="0.0 F" Cbs="0.0 F" Pb="0.8 V" Mj="0.5" Fc="0.5" Cjsw="0.0" Mjsw="0.33" Tt="0.0 ps" Nsub="0.0" Nss="0.0" Tpg="1" Uo="600.0" Rsh="0.0" Nrd="1" Nrs="1" Cj="0.0" Js="0.0" Ad="0.0" As="0.0" Pd="0.0 m" Ps="0.0 m" Kf="0.0" Af="1.0" Ffe="1.0" Temp="26.85" Tnom="26.85"
MOSFET:T2 _net5 _net1 _net9 _net9 Type="pfet" Vt0="-1.0 V" Kp="2e-5" Gamma="0.0" Phi="0.6 V" Lambda="0.0" Rd="0.0 Ohm" Rs="0.0 Ohm" Rg="0.0 Ohm" Is="1e-14 A" N="1.0" W="200 um" L="5 um" Ld="0.0" Tox="0.1 um" Cgso="0.0" Cgdo="0.0" Cgbo="0.0" Cbd="0.0 F" Cbs="0.0 F" Pb="0.8 V" Mj="0.5" Fc="0.5" Cjsw="0.0" Mjsw="0.33" Tt="0.0 ps" Nsub="0.0" Nss="0.0" Tpg="1" Uo="600.0" Rsh="0.0" Nrd="1" Nrs="1" Cj="0.0" Js="0.0" Ad="0.0" As="0.0" Pd="0.0 m" Ps="0.0 m" Kf="0.0" Af="1.0" Ffe="1.0" Temp="26.85" Tnom="26.85"
MOSFET:T7 _net1 _net7 _net9 _net9 Type="pfet" Vt0="-1.0 V" Kp="2e-5" Gamma="0.0" Phi="0.6 V" Lambda="0.0" Rd="0.0 Ohm" Rs="0.0 Ohm" Rg="0.0 Ohm" Is="1e-14 A" N="1.0" W="80 um" L="1.2 um" Ld="0.0" Tox="0.1 um" Cgso="0.0" Cgdo="0.0" Cgbo="0.0" Cbd="0.0 F" Cbs="0.0 F" Pb="0.8 V" Mj="0.5" Fc="0.5" Cjsw="0.0" Mjsw="0.33" Tt="0.0 ps" Nsub="0.0" Nss="0.0" Tpg="1" Uo="600.0" Rsh="0.0" Nrd="1" Nrs="1" Cj="0.0" Js="0.0" Ad="0.0" As="0.0" Pd="0.0 m" Ps="0.0 m" Kf="0.0" Af="1.0" Ffe="1.0" Temp="26.85" Tnom="26.85"
Idc:I1 _net6 _net9 I="5 uA"
.Def:End

Vac:V4 net3 net2 U="1 uV" f="2 kHz" Phase="0" Theta="0"
R:R2 Output net5 R="50k" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
R:R1 _net4 net7 R="100k" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
Vdc:V3 net9 _net5 U="2.5 V"
Vdc:V6 net11 _net6 U="-2.5 V"
.AC:AC1 Type="log" Start="1" Stop="10 MHz" Points="200" Noise="no"
.DC:DC1 Temp="26.85" reltol="0.001" abstol="1 pA" vntol="1 uV" saveOPs="no" MaxIter="150" saveAll="no" convHelper="none" Solver="CroutLU"
Eqn:Eqn1 y="1" Export="yes"
Sub:OPV net4 net3 net10 net11 net1 Type="singleOPV"
R:R3 net5 gnd R="1.7k" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
